US05068334
1-(2-Hydroxy-ethyl)-3,4-dimethyl-7,8-dihydro-2,5(1H.6H)-quinolinedione
Prepared from 3,4-dimethyl-5,6,7,8-tetrahydro-cumarin- 5-one and 2-hydroxy-ethylamine at 130° C. over a period of 25 minutes.

reactant | 3,4-dimethyl-5,6,7,8-tetrahydro-cumarin- 5-one | CC=1C(OC=2CCCC(C2C1C)=O)=O | C11H12O3
reactant | 2-hydroxy-ethylamine | OCCN | C2H7NO
product | 1-(2-Hydroxy-ethyl)-3,4-dimethyl-7,8-dihydro-2,5(1H.6H)-quinolinedione | OCCN1C(C(=C(C=2C(CCCC12)=O)C)C)=O | C13H17NO3
